US05593982
3β-(2-(2-(1-Pyrrolidinyl)ethylamino)ethoxy)-17β-(3-furyl)-5β-androstan-14β-ol (I-ag)
To a solution of 0.20 g of 3β-(2-tosyloxyethoxy)-17β-(3-furyl)-5β-androstan-14β-ol in 2 ml of absolute ethanol 0.15 g of 1-(2-aminoethyl)pyrrolidine were added. The solution was kept at reflux under nitrogen for 3 hrs, then 10 ml of water were added. The residue was extracted with methylene chloride, the organic layer was washed with water to neutral pH, dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The crude residue was purified by flash-chromatography (SiO2) using methylene chloride/methanol 95/5 as eluant to give 0.15 g of the title compound (I-ag).

reactant | 3β-(2-tosyloxyethoxy)-17β-(3-furyl)-5β-androstan-14β-ol | 0.20 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCO[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O | C32H44O6S
reactant | 1-(2-aminoethyl)pyrrolidine | NCCN1CCCC1 | C6H14N2
reactant | water | 10 ml | O | H2O
solvent | ethanol | 2 ml, 0.15 g | C(C)O | C2H6O
product | 3β-(2-(2-(1-Pyrrolidinyl)ethylamino)ethoxy)-17β-(3-furyl)-5β-androstan-14β-ol | 0.15 g | N1(CCCC1)CCNCCO[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O | C31H50N2O3
